US07858640B2
2-[8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yloxy]propionic Acid Methyl Ester
A mixture of 8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-ol (0.18 g), N,N-dimethylformamide (2.0 mL), potassium carbonate (0.092 g) and 2-bromopropionic acid methyl ester (0.11 g) was stirred at room temperature for 3 hours. The mixture was diluted with water, extracted with ethyl acetate and the combined extracts washed with water and saturated aqueous sodium chloride solution and then dried over magnesium sulfate. The solvent removed under reduced pressure and the residue purified by column chromatography on silica gel, eluting with a mixture of ethyl acetate and cyclohexane (1:9 to 1:4 by volume) to afford title compound, 0.092 g.

reactant | 8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-ol | 0.18 g | ClC1=CC=C(C=2C(=C(C(=NC12)C)CC1=CC=C(C=C1)Cl)C)O | C18H15Cl2NO
reactant | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.092 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromopropionic acid methyl ester | 0.11 g | COC(C(C)Br)=O | C4H7BrO2
solvent | water | O | H2O
product | 2-[8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yloxy]propionic Acid Methyl Ester | COC(C(C)OC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)CC1=CC=C(C=C1)Cl)C)=O | C22H21Cl2NO3
